US05538976
3[(Cyanophenyl)amino]pyridazine
Starting compounds: 3-aminopyridazine and 4-fluorobenzonitrile

reactant | 3-aminopyridazine | NC=1N=NC=CC1 | C4H5N3
reactant | 4-fluorobenzonitrile | FC1=CC=C(C#N)C=C1 | C7H4FN
product | 3[(Cyanophenyl)amino]pyridazine | C(#N)C1=C(C=CC=C1)NC=1N=NC=CC1 | C11H8N4
